2165-12-02 06:46:00 Physician Resident Progress Note
Chief Complaint:
   74 yo man with CHF and low EF (25-30%), A fib on coumadin s/p recent
   ablation, CKD on HD s/p fall c/b subarachnoid hemorrhage, C6-C7
   widening w/o fracture, left thigh hematoma, found to have b/l pleural
   effusions and pericardial effusion
   24 Hour Events:
   - 150 cc fluid from drain overnight
   -required hydralazine 10 mg x2 for BP control, carvedilol started but
   not given due to lack of NGT
   -unable to place NG tube today, will require IR-guided placement in the
   AM because he is aspirating and needs to get his sirolimus.
   -F/u with liver fellow in AM regarding sirolums dose, ? why his
   cellcept was dc'd at OSH.
   -LUE swelling, good pulses, US in AM
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2165-12-1**] 08:38 PM
   Hydralazine - [**2165-12-1**] 10:30 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2165-12-2**] 06:45 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.7
C (98
   Tcurrent: 36.7
C (98
   HR: 100 (71 - 108) bpm
   BP: 155/69(92) {123/50(73) - 183/82(110)} mmHg
   RR: 30 (19 - 33) insp/min
   SpO2: 94%
   Heart rhythm: V Paced
   Wgt (current): 68.2 kg (admission): 72 kg
             Total In:
                                                                    260 mL
                                                                    200 mL
   PO:
             TF:
   IVF:
                                                                    260 mL
                                                                    200 mL
   Blood products:
   Total out:
                                                                    456 mL
                                                                    465 mL
   Urine:
                                                                    433 mL
                                                                    315 mL
   NG:
   Stool:
   Drains:
                                                                     23 mL
                                                                    150 mL
   Balance:
                                                                   -196 mL
                                                                   -265 mL
   Respiratory support
   O2 Delivery Device: Face tent
   SpO2: 94%
   ABG: 7.49/30/116/21/0
   PaO2 / FiO2: 232
   Physical Examination
   GEN: Resting, NAD
   CV: tachy , no m/r/g
   PULM: rhonchi b/l, coarse upper airway sounds, decreased BS on right
   side
   ABD: +BS, soft, nt, nd
   EXTR: 1+DP pulses, no edema, LUE with swelling but good pulses
   SKIN: bruising right and left posterior shoulder
   NEURO: alert, oriented x3
   Labs / Radiology
   121 K/uL
   8.8 g/dL
   111 mg/dL
   5.4 mg/dL
   21 mEq/L
   3.9 mEq/L
   62 mg/dL
   107 mEq/L
   147 mEq/L
   28.3 %
   10.2 K/uL
        [image002.jpg]
                            [**2165-11-29**]  03:43 AM
                            [**2165-11-29**]  11:21 AM
                            [**2165-11-29**]  11:34 AM
                            [**2165-11-29**]  01:40 PM
                            [**2165-11-29**]  09:30 PM
                            [**2165-11-30**]  02:17 AM
                            [**2165-11-30**]  06:06 AM
                            [**2165-12-1**]  02:37 AM
                            [**2165-12-2**]  04:57 AM
                            [**2165-12-2**]  05:09 AM
   WBC
   20.5
   14.2
   10.2
   Hct
   30.1
   27.3
   28.6
   28.3
   Plt
   136
   129
   121
   Cr
   4.3
   5.1
   5.4
   TropT
   0.18
   TCO2
   23
   22
   19
   27
   28
   23
   Glucose
   159
   140
   111
   Other labs: PT / PTT / INR:16.9/31.9/1.5, CK / CKMB /
   Troponin-T:194/5/0.18, ALT / AST:94/89, Alk Phos / T Bili:138/0.9,
   Amylase / Lipase:100/28, Fibrinogen:406 mg/dL, Lactic Acid:1.0 mmol/L,
   Albumin:2.9 g/dL, LDH:377 IU/L, Ca++:7.5 mg/dL, Mg++:2.2 mg/dL, PO4:3.5
   mg/dL
   Assessment and Plan
   74 yo man with CHF and low EF (25-30%), A fib on coumadin s/p recent
   ablation, CKD on HD s/p fall c/b subarachnoid hemorrhage, C6-C7
   widening w/o fracture, left thigh hematoma, found to have b/l pleural
   effusions and pericardial effusion, s/p pericardiocentesis and now with
   pericardial drain.
   .
   # Pericardial effusion/pericardial tamponade: believed to be chronic
   due to size; perhaps secondary to uremia (requiring dialysis),
   complication from pacemaker placement (bleed/trauma), or due to viral
   pericarditis (patient had URI recently) or less likely due to
   malignancy; s/p pericardiocentesis.  No evidence of infection at this
   time.  Given high RBC ct in fluid, suspect that it may be slow bleed
   from prior trauma from pacemaker placement.
   -Once drain <25-50 cc drainage/24 hours, will remove; to be flushed
   today (150 cc overnight)
   - no antiplatelets, will go on heparin gtt for LUE DVT (see below,
   neurosurgery aware, PTT goal 50-70)
   - continue q4 heparin flushes of drain
   - follow output and pull drain when output tapers off
   - f/u pericardial fluid culture
   - consider indomethacin if needed for pericardial pain
   - monitor on telemetry
   - f/u TTE for evaluation of residual pericardial fluid, perhaps in
   coming days
   .
   # Dilated cardiomyopathy
   -  Will start carvedilol, pending NGT, off metoprolol
    - Consider adding ACE-I or [**Last Name (un) **] in near future.
   .
   # Respiratory status: Patient with pleural effusions; now satting well
   and comfortable on shovel mask.  CXR shows persistent effusions,
   atelectasis
   - consider thoracentesis if respiratory status worsens and effusions
   worsen
   - O2 wean as tolerated
   - not diuresing given tamponade physiology
   .
   # s/p liver transplant:  sirolimus level low today.  Discussed with
   hepatology fellow who wanted to increase sirolimus dosing to 2 mg daily
   once NGT in place.  Unclear why pt is not on cellcept anymore, however
   hepatology is contacting [**Name2 (NI) **] provider who made the change and will
   f/u with recs.
   - continue Rapamune (sirolimus) 2mg po daily, will need NG tube to
   receive doses or switch to sirolimus syrup (same dose)
   - appreciate hepatology recs above
   .
   # Rhythm
 underlying rhythm pAfib, s/p AV node ablation. A sensed and
   P paced. On metoprolol 100 xl [**Hospital1 **] at home
   - now on anticoagulation given LUE DVT.
   - telemetry
   - initiate carvedilol when NGT in place
   .
   # CKD on HD: HD started 3 wks ago. Renal following, appears euvolemic
   - resume regular HD schedule (Monday)
   - renal dose meds
   - f/u renal recs
   - daily electrolytes
   .
   # Systolic heart failure: Poor EF, currently stable.
   -continue bblocker
   -holding statin given liver transplant
   .
   # Subarachnoid hemorrhages:
   - neuro checks q4h
   - HOB elevation
   - f/u neurosurgery recs
   - continue keppra [**Hospital1 **] for seizure prevention
   .
   # C6-C7 widening; cervical spine instability: may require c-spine
   stabilization procedure.
   - f/u ortho spine recs (Dr. [**Last Name (STitle) 2776**] and any films which may need to be
   ordered
   - continue c.collar until cleared by ortho
   .
   # Bleeding: s/p FFP and vitamin K; evidence on CT, stable anemia since
   admission.
   - hold coumadin, asa
   - daily Hct
   - guiac stool
   .
   # Elevated cardiac enzymes: now trending downward, were likely elevated
   in setting of demand ischemia from trauma, bleeding, transient
   hypotension. Rose again this AM.
   - no need to redraw as long as clinical picture stable
   .
   # Leukocytosis: unclear etiology however concern for aspiration
   pneumonitis.  No other focal sxs, white count down-trending, afebrile
   - hold abx for now.
   - trend WBC, fever curve
   - no evidence of pna on CXR
   - monitor closely d/t chronic immunosuppression (secondary to s/p liver
   transplant)
   - f/u blood, urine cultures, c.diff
   .
   # Aspiration:
   - NGT today for antiepileptic (prophylactic) meds
   - patient failed speech & swallow, they agree with NPO and NGT
   - IR assistance for NGT
   # LUE swelling:  LUE US noted to have DVT
   - need heparin gtt, once therapeutic get head ct to eval for progress
   of SAH
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Arterial Line - [**2165-11-27**] 11:22 PM
   Dialysis Catheter - [**2165-11-28**] 07:00 AM
   20 Gauge - [**2165-12-1**] 10:47 PM
   Prophylaxis:
   DVT: now on heparin gtt
   Stress ulcer:
   VAP:  elevate HOB
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: CCU for now

2165-12-03 03:01:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - underwent dialysis in AM
   - NGT placed with fluoro assistance, then fell out when patient sneezed
   and wiped his nose
   - drain in place and not taken out given > 50 cc output / day
   - heparin gtt started for LUE DVT with goal 50-70
   - head CT ordered in AM to ensure no progression of SAH
   - liver recs: increase sirolimus to 2 mg per day (but still without
   NGT)
   - failed speech and swallow eval
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2165-12-2**] 08:00 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2165-12-3**] 03:01 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.4
C (99.4
   Tcurrent: 36.6
C (97.9
   HR: 107 (89 - 108) bpm
   BP: 108/80(92) {105/56(76) - 166/125(129)} mmHg
   RR: 32 (23 - 37) insp/min
   SpO2: 95%
   Heart rhythm: V Paced
   Wgt (current): 72 kg (admission): 72 kg
             Total In:
                                                                    505 mL
                                                                     49 mL
   PO:
             TF:
   IVF:
                                                                    505 mL
                                                                     49 mL
   Blood products:
   Total out:
                                                                  2,700 mL
                                                                     10 mL
   Urine:
                                                                    550 mL
                                                                     10 mL
   NG:
   Stool:
   Drains:
                                                                    150 mL
   Balance:
                                                                 -2,195 mL
                                                                     39 mL
   Respiratory support
   O2 Delivery Device: Face tent
   SpO2: 95%
   ABG: 7.49/30/116/21/0
   PaO2 / FiO2: 232
   Physical Examination
   GEN: Resting, NAD
   CV: tachy , no m/r/g
   PULM: rhonchi b/l, coarse upper airway sounds, decreased BS on right
   side
   ABD: +BS, soft, nt, nd
   EXTR: 1+DP pulses, no edema, LUE with swelling but good pulses
   SKIN: bruising right and left posterior shoulder
   NEURO: alert, oriented x3
   Labs / Radiology
   121 K/uL
   8.8 g/dL
   111 mg/dL
   5.4 mg/dL
   21 mEq/L
   3.9 mEq/L
   62 mg/dL
   107 mEq/L
   147 mEq/L
   28.3 %
   10.2 K/uL
        [image002.jpg]
                            [**2165-11-29**]  03:43 AM
                            [**2165-11-29**]  11:21 AM
                            [**2165-11-29**]  11:34 AM
                            [**2165-11-29**]  01:40 PM
                            [**2165-11-29**]  09:30 PM
                            [**2165-11-30**]  02:17 AM
                            [**2165-11-30**]  06:06 AM
                            [**2165-12-1**]  02:37 AM
                            [**2165-12-2**]  04:57 AM
                            [**2165-12-2**]  05:09 AM
   WBC
   20.5
   14.2
   10.2
   Hct
   30.1
   27.3
   28.6
   28.3
   Plt
   136
   129
   121
   Cr
   4.3
   5.1
   5.4
   TropT
   0.18
   TCO2
   23
   22
   19
   27
   28
   23
   Glucose
   159
   140
   111
   Other labs: PT / PTT / INR:16.9/150.0/1.5, CK / CKMB /
   Troponin-T:194/5/0.18, ALT / AST:94/89, Alk Phos / T Bili:138/0.9,
   Amylase / Lipase:100/28, Fibrinogen:406 mg/dL, Lactic Acid:1.0 mmol/L,
   Albumin:2.9 g/dL, LDH:377 IU/L, Ca++:7.5 mg/dL, Mg++:2.2 mg/dL, PO4:3.5
   mg/dL
   Assessment and Plan
   74 yo man with CHF and low EF (25-30%), A fib on coumadin s/p recent
   ablation, CKD on HD s/p fall c/b subarachnoid hemorrhage, C6-C7
   widening w/o fracture, left thigh hematoma, found to have b/l pleural
   effusions and pericardial effusion, s/p pericardiocentesis and now with
   pericardial drain.
   .
   # Pericardial effusion/pericardial tamponade: believed to be chronic
   due to size; perhaps secondary to uremia (requiring dialysis),
   complication from pacemaker placement (bleed/trauma), or due to viral
   pericarditis (patient had URI recently) or less likely due to
   malignancy; s/p pericardiocentesis.  No evidence of infection at this
   time.  Given high RBC ct in fluid, suspect that it may be slow bleed
   from prior trauma from pacemaker placement.
   -Once drain <25-50 cc drainage/24 hours, will remove; to be flushed
   today (150 cc overnight)
   - no antiplatelets, will go on heparin gtt for LUE DVT (see below,
   neurosurgery aware, PTT goal 50-70)
   - continue q4 heparin flushes of drain
   - follow output and pull drain when output tapers off
   - f/u pericardial fluid culture
   - consider indomethacin if needed for pericardial pain
   - monitor on telemetry
   - f/u TTE for evaluation of residual pericardial fluid, perhaps in
   coming days
   .
   # Dilated cardiomyopathy
   -  Will start carvedilol, pending NGT, off metoprolol
    - Consider adding ACE-I or [**Last Name (un) **] in near future.
   .
   # Respiratory status: Patient with pleural effusions; now satting well
   and comfortable on shovel mask.  CXR shows persistent effusions,
   atelectasis
   - consider thoracentesis if respiratory status worsens and effusions
   worsen
   - O2 wean as tolerated
   - not diuresing given tamponade physiology
   .
   # s/p liver transplant:  sirolimus level low today.  Discussed with
   hepatology fellow who wanted to increase sirolimus dosing to 2 mg daily
   once NGT in place.  Unclear why pt is not on cellcept anymore, however
   hepatology is contacting [**Name2 (NI) **] provider who made the change and will
   f/u with recs.
   - continue Rapamune (sirolimus) 2mg po daily, will need NG tube to
   receive doses or switch to sirolimus syrup (same dose)
   - appreciate hepatology recs above
   .
   # Rhythm
 underlying rhythm pAfib, s/p AV node ablation. A sensed and
   P paced. On metoprolol 100 xl [**Hospital1 **] at home
   - now on anticoagulation given LUE DVT.
   - telemetry
   - initiate carvedilol when NGT in place
   .
   # CKD on HD: HD started 3 wks ago. Renal following, appears euvolemic
   - resume regular HD schedule (Monday)
   - renal dose meds
   - f/u renal recs
   - daily electrolytes
   .
   # Systolic heart failure: Poor EF, currently stable.
   -continue bblocker
   -holding statin given liver transplant
   .
   # Subarachnoid hemorrhages:
   - neuro checks q4h
   - HOB elevation
   - f/u neurosurgery recs
   - continue keppra [**Hospital1 **] for seizure prevention
   .
   # C6-C7 widening; cervical spine instability: may require c-spine
   stabilization procedure.
   - f/u ortho spine recs (Dr. [**Last Name (STitle) 2776**] and any films which may need to be
   ordered
   - continue c.collar until cleared by ortho
   .
   # Bleeding: s/p FFP and vitamin K; evidence on CT, stable anemia since
   admission.
   - hold coumadin, asa
   - daily Hct
   - guiac stool
   .
   # Elevated cardiac enzymes: now trending downward, were likely elevated
   in setting of demand ischemia from trauma, bleeding, transient
   hypotension. Rose again this AM.
   - no need to redraw as long as clinical picture stable
   .
   # Leukocytosis: unclear etiology however concern for aspiration
   pneumonitis.  No other focal sxs, white count down-trending, afebrile
   - hold abx for now.
   - trend WBC, fever curve
   - no evidence of pna on CXR
   - monitor closely d/t chronic immunosuppression (secondary to s/p liver
   transplant)
   - f/u blood, urine cultures, c.diff
   .
   # Aspiration:
   - NGT today for antiepileptic (prophylactic) meds
   - patient failed speech & swallow, they agree with NPO and NGT
   - IR assistance for NGT
   # LUE swelling:  LUE US noted to have DVT
   - need heparin gtt, once therapeutic get head ct to eval for progress
   of SAH
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Arterial Line - [**2165-11-27**] 11:22 PM
   Dialysis Catheter - [**2165-11-28**] 07:00 AM
   20 Gauge - [**2165-12-1**] 10:47 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2165-12-04 06:41:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
 ARTERIAL LINE - STOP [**2165-12-3**] 10:41 AM
   - NGT placed again with fluoro assistance; started on tube feeds
   - flex/ext films, when correlated with CT, highly suspicious for
   anterior longitudinal ligament injury.  Discussed with Ortho Spine
   attg, who will see patient this AM to discuss potential immediate
   surgery vs. continued collar use and repeat films in ~6 wks.
   - CT head showed evidence of evolving SAH but no evidence of new bleed
   - drain pulled
   - TTE ordered in AM to reassess pericardial space
   - switched patient's NS infusion to D5 1/2 NS to help correct free
   water deficit
   - outpatient cardiologist not sure why patient was not on ACEI; he has
   no contraindications.  Started captopril 6.25 po tid.
   - per pathology, received pericardial fluid for cytology only yesterday
   ([**12-2**]); will have read available [**12-4**] at the earliest
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Heparin Sodium - 800 units/hour
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2165-12-4**] 06:39 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.2
C (98.9
   Tcurrent: 36.3
C (97.4
   HR: 96 (88 - 111) bpm
   BP: 137/64(81) {104/53(68) - 137/75(86)} mmHg
   RR: 34 (21 - 34) insp/min
   SpO2: 93%
   Heart rhythm: V Paced
   Wgt (current): 72 kg (admission): 72 kg
             Total In:
                                                                  1,577 mL
                                                                  1,097 mL
   PO:
             TF:
             47 mL
   IVF:
                                                                  1,517 mL
                                                                  1,051 mL
   Blood products:
   Total out:
                                                                    225 mL
                                                                     55 mL
   Urine:
                                                                    200 mL
                                                                     55 mL
   NG:
   Stool:
   Drains:
                                                                     25 mL
   Balance:
                                                                  1,352 mL
                                                                  1,042 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 93%
   ABG: ////
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   103 K/uL
   8.9 g/dL
   105 mg/dL
   3.4 mg/dL
   25 mEq/L
   3.6 mEq/L
   32 mg/dL
   107 mEq/L
   149 mEq/L
   28.2 %
   7.7 K/uL
        [image002.jpg]
                            [**2165-11-29**]  11:21 AM
                            [**2165-11-29**]  11:34 AM
                            [**2165-11-29**]  01:40 PM
                            [**2165-11-29**]  09:30 PM
                            [**2165-11-30**]  02:17 AM
                            [**2165-11-30**]  06:06 AM
                            [**2165-12-1**]  02:37 AM
                            [**2165-12-2**]  04:57 AM
                            [**2165-12-2**]  05:09 AM
                            [**2165-12-3**]  05:05 AM
   WBC
   20.5
   14.2
   10.2
   7.7
   Hct
   30.1
   27.3
   28.6
   28.3
   28.2
   Plt
   136
   129
   121
   103
   Cr
   4.3
   5.1
   5.4
   3.4
   TropT
   0.18
   TCO2
   22
   19
   27
   28
   23
   Glucose
   159
   140
   111
   105
   Other labs: PT / PTT / INR:16.9/69.7/1.5, CK / CKMB /
   Troponin-T:194/5/0.18, ALT / AST:94/89, Alk Phos / T Bili:138/0.9,
   Amylase / Lipase:100/28, Fibrinogen:406 mg/dL, Lactic Acid:1.0 mmol/L,
   Albumin:3.0 g/dL, LDH:377 IU/L, Ca++:7.7 mg/dL, Mg++:1.9 mg/dL, PO4:2.4
   mg/dL
   Assessment and Plan
   74 yo man with CHF and low EF (25-30%), A fib on coumadin s/p recent
   ablation, CKD on HD s/p fall c/b subarachnoid hemorrhage, C6-C7
   widening w/o fracture, left thigh hematoma, found to have b/l pleural
   effusions and pericardial effusion, s/p pericardiocentesis and now with
   pericardial drain.
   .
   # Pericardial effusion/pericardial tamponade: believed to be chronic
   due to size; perhaps secondary to uremia (requiring dialysis),
   complication from pacemaker placement (bleed/trauma), or due to viral
   pericarditis (patient had URI recently) or less likely due to
   malignancy; s/p pericardiocentesis.  No evidence of infection at this
   time.  Given high RBC ct in fluid, suspect that it may be slow bleed
   from prior trauma from pacemaker placement.  Pericardial fluid culture
   neg, AFP/anaerobic pending.
   - plan to remove drain today, since <25-50 cc drainage/past 24 hours
   - no antiplatelets, on heparin gtt for LUE DVT (see below, neurosurgery
   aware, PTT goal 50-70)
   - f/u pericardial fluid cytology
   - consider indomethacin if needed for pericardial pain
   - monitor on telemetry
   - f/u TTE for evaluation of residual pericardial fluid, perhaps in
   coming days
   .
   # Dilated cardiomyopathy
   -  Will start carvedilol, pending NGT, off metoprolol.
    - Add captopril.
   .
   # Respiratory status: Patient with pleural effusions; now satting well
   and comfortable on shovel mask.  CXR shows persistent effusions,
   atelectasis.  Improving oxygen requirement.
   - O2 wean as tolerated
   - not diuresing given tamponade physiology
   .
   # s/p liver transplant:  sirolimus level low today.  Discussed with
   hepatology fellow who wanted to increase sirolimus dosing to 2 mg daily
   once NGT in place.  Unclear why pt is not on cellcept anymore, however
   hepatology is contacting [**Name2 (NI) **] provider who made the change and will
   f/u with recs.
   - continue Rapamune (sirolimus) 2mg po daily, will need NG tube to
   receive doses or switch to sirolimus syrup (same dose)
   - appreciate hepatology recs above
   .
   # Rhythm
 underlying rhythm pAfib, s/p AV node ablation. A sensed and
   P paced. On metoprolol 100 xl [**Hospital1 **] at home
   - now on anticoagulation given LUE DVT.
   - telemetry
   - initiate carvedilol when NGT in place
   .
   # CKD on HD: HD started 3 wks ago. Renal following, appears euvolemic
   - resume regular HD schedule (Monday)
   - renal dose meds
   - f/u renal recs
   - daily electrolytes
   .
   # Systolic heart failure: Poor EF, currently stable.
   -continue bblocker, starting ACEI
   -holding statin given liver transplant
   .
   # Subarachnoid hemorrhages:
   - head CT today to ensure no progression while on heparin gtt
   - neuro checks q4h
   - HOB elevation
   - f/u neurosurgery recs
   - continue keppra [**Hospital1 **] for seizure prevention
   .
   # C6-C7 widening; cervical spine instability: may require c-spine
   stabilization procedure.
   - will order flexion and extension films, discuss results with ortho
   - continue c.collar until cleared by ortho
   .
   # Bleeding: s/p FFP and vitamin K; evidence on CT, stable anemia since
   admission.
   - hold coumadin, asa
   - daily Hct
   - guiac stool
   .
   # Elevated cardiac enzymes: now trending downward, were likely elevated
   in setting of demand ischemia from trauma, bleeding, transient
   hypotension. Rose again this AM.
   - no need to redraw as long as clinical picture stable
   .
   # Leukocytosis: resolved at this time, patient afebrile
   - no evidence of pna on CXR
   - monitor closely d/t chronic immunosuppression (secondary to s/p liver
   transplant)
   .
   # Hypernatremia: will start D5
 NS (previously on NS)
   .
   # Aspiration:
   - NGT today for antiepileptic (prophylactic) meds
   - patient failed speech & swallow, they agree with NPO and NGT
   - IR assistance for NGT
   # LUE swelling:  LUE US noted to have DVT
   - need heparin gtt, once therapeutic get head ct to eval for progress
   of SAH
   ICU Care
   Nutrition:
   Replete with Fiber (Full) - [**2165-12-4**] 02:00 AM 10 mL/hour
   Glycemic Control:
   Lines:
   Dialysis Catheter - [**2165-11-28**] 07:00 AM
   20 Gauge - [**2165-12-3**] 04:00 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2165-12-04 07:46:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   [**2165-12-3**]
   - NGT placed again with fluoro assistance; started on tube feeds
   - flex/ext films, when correlated with CT, highly suspicious for
   anterior longitudinal ligament injury.  Discussed with Ortho Spine
   attg, who will see patient this AM to discuss potential immediate
   surgery vs. continued collar use and repeat films in ~6 wks.
   - CT head showed evidence of evolving SAH but no evidence of new bleed
   - drain pulled
   - TTE ordered in AM to reassess pericardial space
   - switched patient's NS infusion to D5 1/2 NS to help correct free
   water deficit, stopped per Renal this AM who will correct at HD
   - outpatient cardiologist not sure why patient was not on ACEI; he has
   no contraindications.  Started captopril 6.25 po tid.
   - per pathology, received pericardial fluid for cytology only yesterday
   ([**12-2**]); will have read available [**12-4**] at the earliest
 ARTERIAL LINE - STOP [**2165-12-3**] 10:41 AM
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Heparin Sodium - 800 units/hour
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2165-12-4**] 07:41 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.2
C (98.9
   Tcurrent: 36.3
C (97.4
   HR: 95 (88 - 111) bpm
   BP: 137/64(81) {104/53(68) - 137/75(86)} mmHg
   RR: 29 (21 - 34) insp/min
   SpO2: 95%
   Heart rhythm: V Paced
   Wgt (current): 72 kg (admission): 72 kg
             Total In:
                                                                  1,577 mL
                                                                  1,256 mL
   PO:
             TF:
             57 mL
   IVF:
                                                                  1,517 mL
                                                                  1,199 mL
   Blood products:
   Total out:
                                                                    225 mL
                                                                     55 mL
   Urine:
                                                                    200 mL
                                                                     55 mL
   NG:
   Stool:
   Drains:
                                                                     25 mL
   Balance:
                                                                  1,352 mL
                                                                  1,201 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 95%
   ABG: ////
   Physical Examination
   Gen: Lying in bed in cervical collar receiving HD, responding
   appropriately to questions
   Neck: unable to assess JVD [**3-11**] to cervical collar
   Chest: Clean dressing at drain site
   CV: tachy s1s2 loud and clear, no MGR
   Pulm: decreased bs on lateral exam, mild basilar crackles on anterior
   exam
   Ext: 1+ DP pulses, in P-boots and ankle boots, no edema, warm and pale
   Labs / Radiology
   127 K/uL
   8.8 g/dL
   105 mg/dL
   3.4 mg/dL
   25 mEq/L
   3.6 mEq/L
   32 mg/dL
   107 mEq/L
   149 mEq/L
   28.3 %
   7.4 K/uL
        [image002.jpg]
                            [**2165-11-29**]  11:34 AM
                            [**2165-11-29**]  01:40 PM
                            [**2165-11-29**]  09:30 PM
                            [**2165-11-30**]  02:17 AM
                            [**2165-11-30**]  06:06 AM
                            [**2165-12-1**]  02:37 AM
                            [**2165-12-2**]  04:57 AM
                            [**2165-12-2**]  05:09 AM
                            [**2165-12-3**]  05:05 AM
                            [**2165-12-4**]  06:17 AM
   WBC
   20.5
   14.2
   10.2
   7.7
   7.4
   Hct
   30.1
   27.3
   28.6
   28.3
   28.2
   28.3
   Plt
   136
   129
   121
   103
   127
   Cr
   4.3
   5.1
   5.4
   3.4
   TropT
   0.18
   TCO2
   19
   27
   28
   23
   Glucose
   159
   140
   111
   105
   Other labs: PT / PTT / INR:23.1/75.9/2.2, CK / CKMB /
   Troponin-T:194/5/0.18, ALT / AST:94/89, Alk Phos / T Bili:138/0.9,
   Amylase / Lipase:100/28, Fibrinogen:406 mg/dL, Lactic Acid:1.0 mmol/L,
   Albumin:3.0 g/dL, LDH:377 IU/L, Ca++:7.7 mg/dL, Mg++:1.9 mg/dL, PO4:2.4
   mg/dL
   Assessment and Plan
   74 yo man with CHF and low EF (25-30%), A fib on coumadin s/p recent
   ablation, CKD on HD s/p fall c/b subarachnoid hemorrhage, C6-C7
   widening w/o fracture, left thigh hematoma, found to have b/l pleural
   effusions and pericardial effusion, s/p pericardiocentesis and now with
   pericardial drain.
   .
   # Pericardial effusion/pericardial tamponade: believed to be chronic
   due to size; perhaps secondary to uremia (requiring dialysis),
   complication from pacemaker placement (bleed/trauma), or due to viral
   pericarditis (patient had URI recently) or less likely due to
   malignancy; s/p pericardiocentesis.  No evidence of infection at this
   time.  Given high RBC ct in fluid, suspect that it may be slow bleed
   from prior trauma from pacemaker placement.  Pericardial fluid culture
   neg, AFP/anaerobic pending.
   - drain removed yesterday
   - no antiplatelets, on heparin gtt for LUE DVT (see below, neurosurgery
   aware, PTT goal 50-70)
   - f/u pericardial fluid cytology
   - consider indomethacin if needed for pericardial pain
   - monitor on telemetry
   - TTE today showed - LV systolic function appears depressed. RV with
   depressed free wall contractility. There is no aortic valve stenosis.
   There is a trivial/physiologic pericardial effusion.  Compared with the
   prior study (images reviewed) of [**2165-11-30**], no change.
   .
   # Dilated cardiomyopathy
   -  Will start carvedilol, Diovan now that NGT is in
   .
   # Respiratory status: Patient with pleural effusions; now satting well
   and comfortable on RA.  CXR shows persistent effusions, atelectasis.
   Improving oxygen requirement.
   -continue off O2 as tolerated
   - not diuresing given tamponade physiology
   .
   # s/p liver transplant:  sirolimus level low today.  Discussed with
   hepatology fellow who wanted to increase sirolimus dosing to 2 mg daily
   once NGT in place.  Unclear why pt is not on cellcept anymore, however
   hepatology is contacting [**Name2 (NI) **] provider who made the change and will
   f/u with recs.
   - continue Rapamune (sirolimus) 2mg po daily, will need NG tube to
   receive doses or switch to sirolimus syrup (same dose)
   - appreciate hepatology recs above
   .
   # Rhythm
 underlying rhythm currently sinus, s/p AV node ablation. A
   sensed and P paced. On metoprolol 100 xl [**Hospital1 **] at home
   - now on anticoagulation given LUE DVT.
   - telemetry
   - initiated carvedilol with NGT in place
   .
   # CKD on HD: HD started 3 wks ago. Renal following, appears euvolemic
   - resume regular HD schedule (Monday, Wednesday, Friday)
   - renal dose meds
   - f/u renal recs
   - daily electrolytes, renal addressing hypernatremia, hypokalemia
   .
   # Systolic heart failure: Poor EF, currently stable.
   -continue bblocker, starting ACEI
   -holding statin given liver transplant
   .
   # Subarachnoid hemorrhages:
   - head CT yesterday was negative for new hemorrhage, showed expected
   evolution of old
   - neuro checks q4h
   - HOB elevation
   - f/u neurosurgery recs
   - continue keppra [**Hospital1 **] for seizure prevention
   .
   # C6-C7 widening; cervical spine instability: may require c-spine
   stabilization procedure which patient refused at this time.
   - will order flexion and extension films concerning for anterior
   longitudinal ligament injury
   - continue c.collar for at least 6 weeks
   - needs to bee seen in two weeks by ortho, appointment to be made based
   on number in chart from ortho attending note
   .
   # Bleeding: s/p FFP and vitamin K; evidence on CT, stable anemia since
   admission.
   - hold coumadin, asa
   - daily Hct, stable today
   - guiac stool
   .
   # Elevated cardiac enzymes: now trending downward, were likely elevated
   in setting of demand ischemia from trauma, bleeding, transient
   hypotension. Rose again [**11-30**].
   - no need to redraw as long as clinical picture stable
   .
   # Leukocytosis: resolved at this time, patient afebrile
   - no evidence of pna on CXR
   - monitor closely d/t chronic immunosuppression (secondary to s/p liver
   transplant)
   .
   # Hypernatremia:
   - Started on D5
 NS (previously on NS), HD asked us to stop this AM
   and states they will attempt to fix in HD
   .
   # Aspiration:
   - NGT placed [**12-3**] for antiepileptic (prophylactic) meds
   - patient failed speech & swallow, they agree with NPO and NGT
   - IR assistance for NGT
   # LUE swelling:  LUE US noted to have DVT
   -          on heparin gtt, CT after therapeutic was stable
   -          D/c
d coumadin as neuron wants no oral a/c
   ICU Care
   Nutrition:
   Replete with Fiber (Full) - [**2165-12-4**] 02:00 AM 10 mL/hour
   Glycemic Control:
   Lines:
   Dialysis Catheter - [**2165-11-28**] 07:00 AM
   20 Gauge - [**2165-12-3**] 04:00 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: